US08685977B2
methyl 4-fluoro-2-(methoxymethyl)benzoate
To a solution of 4-fluoro-2-(hydroxymethyl)benzoic acid (Preparation 36, 0.185 g, 0.001087 mol) in tetrahydrofuran (5.0 mL) was added sodium hydride (0.110 g, 0.0028 mmol, 60% in mineral oil) portion wise. The reaction was stirred for 15 minutes at room temperature under nitrogen. Then 0.17 mL iodomethane (0.17 mL, 0.00272 mol) was added and the reaction mixture stirred at room temperature under nitrogen for 16 hours. The reaction was quenched with an aqueous solution of hydrochloric acid (2.0M, 10.0 mL) and product was extracted with ethyl acetate (15.0 mL). The organic phase was dried over sodium sulfate, filtered and concentrated in vacuo. The residue was dissolved in dimethyl sulfoxide (3.0 mL), then potassium carbonate (0.170 g, 0.00123 mol) and iodomethane (0.17 mL, 0.00272 mol) were added. The reaction mixture was stirred at 60° C. under nitrogen for 2 hours. The reaction was diluted with ethyl acetate (15.0 mL) and washed three times with water (15.0 mL). The organic phase was dried over sodium sulfate, filtered and concentrated in vacuo. Title compound was isolated after purification using silica gel column chromatography eluting with 0-10% EtOAc in heptane as a colourless oil (0.135 g, 0.000681, 67% yield).

reactant | 4-fluoro-2-(hydroxymethyl)benzoic acid | 0.001087 mol, 0.185 g | FC1=CC(=C(C(=O)O)C=C1)CO | C8H7FO3
reactant | sodium hydride | 0.0028 mmol, 0.110 g | [H-].[Na+]
reactant | iodomethane | 0.00272 mol, 0.17 mL | IC | CH3I
reactant | potassium carbonate | 0.00123 mol, 0.170 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.00272 mol, 0.17 mL | IC | CH3I
reactant | ethyl acetate | 15.0 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | methyl 4-fluoro-2-(methoxymethyl)benzoate | 67% yield | FC1=CC(=C(C(=O)OC)C=C1)COC | C10H11FO3
